US05760032
tert-Butyl 3-aminophenylacetate (2.07 g) was dissolved in tetrahydrofuran (70 ml), and N,N'-carbonyldiimidazole (1.7 g) was added under ice-cooling. One hour later, triethylamine (2.8 ml) and 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (7.42 g) were added, and the mixture was stirred at room temperature for one day. The reaction mixture was concentrated, and partitioned between ethyl acetate and water. The organic layer was washed with a 5% aqueous citric acid solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated, and crude crystals (2.58 g) were precipitated from a small amount of ethyl acetate. The crystals were recrystallized from ethyl acetate to give 1.66 g of tert-butyl 3-(3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)ureido)phenylacetate.

reactant | tert-Butyl 3-aminophenylacetate | 2.07 g | NC=1C=C(C=CC1)CC(=O)OC(C)(C)C | C12H17NO2
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 7.42 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-(3-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)ureido)phenylacetate | 1.66 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(NC=2C=C(C=CC2)CC(=O)OC(C)(C)C)=O)C=CC=C1 | C30H32ClN5O4S
